US08426420B2
viii) 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid
To a solution of 3.2 g 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 40 ml THF and 5 ml water were added 340 mg NaOH portionwise at 0° C. After 4 h the solution was neutralized with Amberlite IR-120 ion exchange resin, filtered and washed with methanol. The crude product obtained after evaporation of the solvents was used in the subsequent reaction.

reactant | 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 3.2 g | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1 | C23H28N4O5
reactant | NaOH | 340 mg | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
